US04353827
A solution of 17.0 g (49.3 mmol) of (2R,11aS)-6-chloro-2,3,5,10,11,11a-hexahydro-5,11-dioxo-1H-pyrrolo[2,1-c][1,4]benzodiazepin-2-yl-methanesulphonate in 80 ml of dry dimethylformamide is treated with 4.3 g (98.6 mmol) of sodium hydride (55 percent oil dispersion), the mixture is stirred at 45° for a further 2 hours, then poured into 300 ml of ice-water, neutralized with 5.6 ml of glacial acetic acid and extracted four times with methylene chloride. The organic extracts are washed once with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. By crystallization from ethanol there is obtained (S)-6-chloro-1,11a-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 249°-251°.

reactant | (2R,11aS)-6-chloro-2,3,5,10,11,11a-hexahydro-5,11-dioxo-1H-pyrrolo[2,1-c][1,4]benzodiazepin-2-yl-methanesulphonate | 49.3 mmol, 17.0 g | ClC1=CC=CC2=C1C(N1[C@H](C(N2)=O)C[C@H](C1)CS(=O)(=O)[O-])=O
reactant | sodium hydride | 98.6 mmol, 4.3 g | [H-].[Na+]
reactant | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (S)-6-chloro-1,11a-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | ClC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CC=C1)=O | C12H9ClN2O2
